US05536727
Preparation of 4-methyl-5α-4-azaandrostan-3-on-17β-yloxyacetic acid
To ethyl 4-methyl-5α-4-azaandrostan-3-on-17β-yloxyacetate (275 mg) in THF (10 ml) and MeOH (5 ml) under N2 was added 2N NaOH (3.0 ml). The mixture was stirred at room temperature for 2 hours, then concentrated in vacuo. The aqueous residue was extracted with CH2Cl2. The aqueous layer was then acidified with 3.0 N HCl (ca. 2.1 ml) to pH 2, and extracted with CH2Cl2. The organic layer was washed with brine and dried (Na2SO4). The solvent was removed, and the crude product recrystallized from CH2Cl2 /hexane to give the title compound. m.p. 180.5°-184° C.

reactant | ethyl 4-methyl-5α-4-azaandrostan-3-on-17β-yloxyacetate | 275 mg | CN1[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)OCC(=O)OCC | C23H37NO4
reactant | NaOH | 2N, 3.0 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 5 ml | CO | CH4O
product | 4-methyl-5α-4-azaandrostan-3-on-17β-yloxyacetic acid | CN1[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)OCC(=O)O | C21H33NO4
